US07491713B2
Step A: tert-Butyl 4-[(2-ethoxy-2-oxoethyl)amino]piperidine-1-carboxylate
Sodium cyanoborohydride (189 mg, 3.01 mmol) was added to a solution of 1-boc-4-piperidone (500 mg, 2.51 mmol) and glycine ethyl ester hydrochloride (350 mg, 2.51 mmol) in methanol (12.5 mL). After 16 h, the mixture was quenched with saturated ammonium chloride solution, concentrated, and partitioned between dichloromethane and saturated sodium bicarbonate solution. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated. Purification by silica gel chromatography [100% dichloromethane→95% dichloromethane/5% (10% ammonium hydroxide/methanol)] gave the title compound (600 mg).

reactant | Sodium cyanoborohydride | 3.01 mmol, 189 mg | C(#N)[BH3-].[Na+]
reactant | 1-boc-4-piperidone | 2.51 mmol, 500 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | glycine ethyl ester hydrochloride | 2.51 mmol, 350 mg | Cl.C(C)OC(CN)=O
solvent | methanol | 12.5 mL | CO | CH4O
product | tert-Butyl 4-[(2-ethoxy-2-oxoethyl)amino]piperidine-1-carboxylate | 600 mg | C(C)OC(CNC1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H26N2O4
